US09376441B2
(R)-4-((R)-1-((6-chloro-3-iodopyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one (58 mg, 0.11 mmol) and [(2-dicyclohexylphosphino-2′,6′-bis(N,N-dimethylamino)-1,1′-biphenyl)-2-(2′-amino-1,1′-biphenyl)]palladium(II) methanesulfonate (8.7 mg, 0.011 mmol) were added. After evacuating and backfilling with nitrogen, THF (1.1 mL) was added followed by cyclopropylzinc bromide (1.3 mL, 0.65 mmol, 0.5M solution in THF). The mixture was stirred at room temperature for 15 min. The reaction was diluted with 1N HCl and extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (30-100% EtOAc in hexanes) to afford (R)-4-((R)-1-((6-chloro-3-cyclopropylpyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one.

reactant | (R)-4-((R)-1-((6-chloro-3-iodopyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one | 0.11 mmol, 58 mg | ClC=1C=C(C=2N(C1)N=CC2I)O[C@H](C)[C@@H]2CC(N(C2)[C@H](C)C2=CC=C(C=C2)OC)=O | C22H23ClIN3O3
reactant | cyclopropylzinc bromide | 0.65 mmol, 0.5M, 1.3 mL | [Br-].C1(CC1)[Zn+]
solvent | HCl | 1N | Cl | ClH
product | (R)-4-((R)-1-((6-chloro-3-cyclopropylpyrazolo[1,5-a]pyridin-4-yl)oxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one | ClC=1C=C(C=2N(C1)N=CC2C2CC2)O[C@H](C)[C@@H]2CC(N(C2)[C@H](C)C2=CC=C(C=C2)OC)=O | C25H28ClN3O3
